US08247483B2
(5) Examples of 2-(2-hydroxyphenyl)-1,3,5-triazine photostabilizer
2,4,6-tris(2-hydroxy-4-octyloxyphenyl)-1,3,5-triazine, 2-(2-hydroxy-4-octyloxyphenyl)-4,6-bis(2,4-dimethylphenyl)-1,3,5-triazine, 2-[2,4-dihydroxyphenyl-4,6-bis(2,4-dimethylphenyl]-1,3,5-triazine, 2,4-bis(2-hydroxy-4-propyloxyphenyl)-6-(2,4-dimethylphenyl)-1,3,5-triazine, 2-(2-hydroxy-4-octyloxyphenyl)-4,6-bis(4-methylphenyl)-1,3,5-triazine, 2-[2-hydroxy-4-dodecyloxyphenyl)-4,6-bis(2,4-dimethylphenyl]-1,3,5-triazine, 2-[2-hydroxy-4-(2-hydroxy-3-butyloxypropoxy)phenyl]-4,6-bis (2,4-dimethylphenyl)-1,3,5-triazine, 2-[2-hydroxy-4-(2-hydroxy-3-octyloxypropoxy)phenyl]-4,6-bis (2,4-dimethylphenyl)-1,3,5-triazine and mixtures thereof, and the like.

reactant | 2,4,6-tris(2-hydroxy-4-octyloxyphenyl)-1,3,5-triazine | OC1=C(C=CC(=C1)OCCCCCCCC)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCCCCCCC)O)C1=C(C=C(C=C1)OCCCCCCCC)O | C45H63N3O6
reactant | 2-(2-hydroxy-4-octyloxyphenyl)-4,6-bis(2,4-dimethylphenyl)-1,3,5-triazine | OC1=C(C=CC(=C1)OCCCCCCCC)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C33H39N3O2
reactant | 2,4-dihydroxyphenyl-4,6-bis(2,4-dimethylphenyl]-1,3,5-triazine | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C25H23N3O2
reactant | 2,4-bis(2-hydroxy-4-propyloxyphenyl)-6-(2,4-dimethylphenyl)-1,3,5-triazine | OC1=C(C=CC(=C1)OCCC)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCC)O)C1=C(C=C(C=C1)C)C | C29H31N3O4
reactant | 2-(2-hydroxy-4-octyloxyphenyl)-4,6-bis(4-methylphenyl)-1,3,5-triazine | OC1=C(C=CC(=C1)OCCCCCCCC)C1=NC(=NC(=N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C31H35N3O2
reactant | 2-[2-hydroxy-4-dodecyloxyphenyl)-4,6-bis(2,4-dimethylphenyl]-1,3,5-triazine | OC1=C(C=CC(=C1)OCCCCCCCCCCCC)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C37H47N3O2
reactant | 2-[2-hydroxy-4-(2-hydroxy-3-butyloxypropoxy)phenyl]-4,6-bis (2,4-dimethylphenyl)-1,3,5-triazine | OC1=C(C=CC(=C1)OCC(COCCCC)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C32H37N3O4
reactant | 2-[2-hydroxy-4-(2-hydroxy-3-octyloxypropoxy)phenyl]-4,6-bis (2,4-dimethylphenyl)-1,3,5-triazine | OC1=C(C=CC(=C1)OCC(COCCCCCCCC)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C36H45N3O4
product | 2-(2-hydroxyphenyl)-1,3,5-triazine | OC1=C(C=CC=C1)C1=NC=NC=N1 | C9H7N3O
